US05798362
4-Amino-6,7-dimethoxy-2-[4-(2,2-diphenylacetyl)-1-piperazinyl]-quinazoline hydrochloride .
2.9 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)-quinazoline (prepared according to: J. Med. Chem. 20, 146-149 (1977)) are added in little portions, in about 10' and at room temperature, to a solution of 4.2 g dicyclohexylcarbodiimide 97% and 0.12 g of 4-dimethylaminopyridine in 60 ml CHCl3. The mixture is stirred for 10' at the same temperature and added with 2.55 g of 2,2-diphenylacetic acid and again stirred for 6 h. The residue obtained after evaporation of the solvent is purified by flash chromatography on SiO2 column elating with CHCl3 /MeOH 100:2. The fractions containing the pure base are pooled, the solvents evaporated, the residue is dissolved in warm EtOH 95% and the solution treated with HCl in EtOH about 4N. The salt which crystallizes by cooling the solution is collected by filtration and recrystallized from EtOH 90% to give 3.2 g (60%) of the wanted compound; m.p.: 282°-283° C.

reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)-quinazoline | 2.9 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | dicyclohexylcarbodiimide | 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2,2-diphenylacetic acid | 2.55 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Amino-6,7-dimethoxy-2-[4-(2,2-diphenylacetyl)-1-piperazinyl]-quinazoline hydrochloride | 3.2 g, 60% | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C28H29N5O3.ClH/c1-35-23-17-21-22(18-24(23)36-2)30-28(31-26(21)29)33-15-13-32(14-16-33)27(34)25(19-9-5-3-6-10-19)20-11-7-4-8-12-20;/h3-12,17-18,25H,13-16H2,1-2H3,(H2,29,30,31);1H
